US05454976
Step 3: (2R,5S)-2-Tetrahydropyranyloxy-5-methylheptyl p-toluenesulfonate
In a 50 ml egg-plant type flask were charged 1.7 g of 3,4-dihydro-2H-pyran, 30 ml of diethyl ether, 5.0 g of (2R, 5S)-2-hydroxy-5-methylheptyl p-toluenesulfonate, and 50 mg of p-toluenesulfonic acid, and the mixture was stirred at room temperature overnight. The resulting reaction mixture was neutralized with a saturated sodium hydrogencarbonate aqueous solution, and diethyl ether was distilled off under reduced pressure to obtain 6.5 g of a crude product.

reactant | 3,4-dihydro-2H-pyran | 1.7 g | O1CCCC=C1 | C5H8O
reactant | (2R, 5S)-2-hydroxy-5-methylheptyl p-toluenesulfonate | 5.0 g | C1(=CC=C(C=C1)S(=O)(=O)OC[C@@H](CC[C@H](CC)C)O)C | C15H24O4S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
catalyst | p-toluenesulfonic acid | 50 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | (2R,5S)-2-Tetrahydropyranyloxy-5-methylheptyl p-toluenesulfonate | 6.5 g | C1(=CC=C(C=C1)S(=O)(=O)OC[C@@H](CC[C@H](CC)C)OC1OCCCC1)C | C20H32O5S
